US07470679B2
(S)-Dimethyl 2-((7-chloro-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate
2-(S)-(2-Acetoxymethyl-4-amino-5-chloro-3-methyl-benzyl)-succinic acid diethyl ester (2.21 g, 5.4 mmol) was converted to the title compound in a manner analogous to the preparation of 2-(S)-(4-Hydroxymethyl-1H-indazol-5-ylmethyl)-succinic acid dimethyl ester. Material was obtained as amber solid in 99% yield. MS m/e (M+H)+=241.2.

reactant | 2-(S)-(2-Acetoxymethyl-4-amino-5-chloro-3-methyl-benzyl)-succinic acid diethyl ester | 5.4 mmol, 2.21 g | C(C)OC([C@H](CC(=O)OCC)CC1=C(C(=C(C(=C1)Cl)N)C)COC(C)=O)=O | C19H26ClNO6
reactant | 2-(S)-(4-Hydroxymethyl-1H-indazol-5-ylmethyl)-succinic acid dimethyl ester | COC([C@H](CC(=O)OC)CC=1C(=C2C=NNC2=CC1)CO)=O | C15H18N2O5
product | (S)-Dimethyl 2-((7-chloro-4-(hydroxymethyl)-1H-indazol-5-yl)methyl)succinate | 99% yield | ClC=1C=C(C(=C2C=NNC12)CO)C[C@H](C(=O)OC)CC(=O)OC | C15H17ClN2O5
